US05866568
Sodium ethoxide was generated by the addition of sodium (9.45 g) to ethanol (370 ml). The resulting solution was cooled to 5° C. and diethyl 2-methylmalonate (68.8 ml) added over 2 minutes. The reaction mixture was stirred at 5° C. for 20 minutes and then 4-bromobenzyl bromide (97.0 g) was added over 20 minutes. The reaction mixture was then heated under reflux for 16 hours. The reaction mixture was cooled to ambient temperature, filtered through diatomaceous earth and evaporated. The residue was partitioned between water (500 ml) and diethyl ether (1000 ml). The diethyl ether was separated and the aqueous layer was extracted with diethyl ether (2×500ml). The combined organic layers were dried (MgSO4) and evaporated to give an amber oil. This was purified by vacuum distillation, affording diethyl 2-(4-bromobenzyl)-2-methylmalonate (84.4 g), b.p.122°-125° C./0.1-0.2 mm Hg; mass spectrum (+ve CI): 343 (M+H)+.

reactant | Sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 9.45 g | [Na] | Na
reactant | diethyl 2-methylmalonate | 68.8 ml | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 4-bromobenzyl bromide | 97.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | ethanol | 370 ml | C(C)O | C2H6O
product | diethyl 2-(4-bromobenzyl)-2-methylmalonate | 84.4 g | BrC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)C)C=C1 | C15H19BrO4
